US08466143B2
C. Preparation of ethyl 1-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
In a manner similar to Example 1, the title compound was prepared from 2-(1H-indol-3-yl)propylamine and ethyl pyruvate. MS(ESI): 271 (MH+).

reactant | 2-(1H-indol-3-yl)propylamine | N1C=C(C2=CC=CC=C12)C(CN)C | C11H14N2
reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
product | ethyl 1-methyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | CC1CNC=C(C=2NC=3C=CC=CC3C21)C(=O)OCC | C16H18N2O2
